US08629137B2
1-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
785 mg (3.60 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one and 420 mg (1.26 mmol) 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one were combined in 3 mL NMP and stirred for 12 h at 120° C. The mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and the acetonitrile was eliminated i. vac. The residue was diluted with water, the precipitated solid was suction filtered, washed with water and dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 3.60 mmol, 785 mg | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 1.26 mmol, 420 mg | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C)OC | C16H13ClN2O4
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 1-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC(=C2)OC)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O)C)=O | C27H26N6O5
